US06500863B1
N-(2-benzyloxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-(2-benzyloxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide (2.31 g, 5.71 mmol), 60% NaH (683 mg, 17.1mmol) and water (103 μ, 5.72mmol) were reacted to form the desired product (1.70 g, 77%). LC-MS (m/z) 387.5(M+).

reactant | N-(2-benzyloxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide | 5.71 mmol, 2.31 g | C(C1=CC=CC=C1)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C15H14Cl2N2O5S
reactant | NaH | 17.1mmol, 683 mg | [H-].[Na+]
reactant | water | 5.72mmol | O | H2O
product | N-(2-benzyloxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.70 g, 77% | C(C1=CC=CC=C1)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C15H15ClN2O6S
